US07994196B2
4-(Hydroxymethyl)-4-phenyl-1-piperidinecarboxylic acid tert-butyl ester (953 mg) was dissolved in tetrahydrofuran (10 ml), and the mixture was cooled to 0° C. Sodium hydride (157 mg) was added and the mixture was stirred for 20 min. Dimethylsulfuric acid (0.5 ml) was added, and the mixture was stirred for 5 hr. After completion of the reaction, a saturated aqueous ammonium chloride solution was added, and the mixture was extracted three times with ethyl acetate. The organic layer was dried and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give a colorless oil. Methylene chloride (6 ml) and trifluoroacetic acid (0.5 ml) were added to the oil, and the mixture was stirred at room temperature for 7 hr. After completion of the reaction, 1N sodium hydroxide was added, and the mixture was extracted three times with chloroform. The organic layer was dried and the solvent was evaporated under reduced pressure to give 4-(methoxymethyl)-4-phenylpiperidine (237 mg, yield 35%).

reactant | 4-(Hydroxymethyl)-4-phenyl-1-piperidinecarboxylic acid tert-butyl ester | 953 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CC=CC=C1)CO | C17H25NO3
reactant | Sodium hydride | 157 mg | [H-].[Na+]
reactant | Dimethylsulfuric acid | 0.5 ml | COS(OC)(=O)=O | C2H6O4S
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | Methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | 4-(methoxymethyl)-4-phenylpiperidine | 237 mg, yield 35% | COCC1(CCNCC1)C1=CC=CC=C1 | C13H19NO
